US04783451
A solution mixture comprising 3 g of 2-oxazolone, 25 ml of ethyl mercaptan and 600 mg of azobisisobutyronitrile, was reacted at 100° C. for 8 hours in an autoclave. After the completion of the reaction, excess ethyl mercaptan was distilled off, and the residue was purified by silica gel chromatography to obtain 1.6 g of 5-ethylthiooxazolidin-2-one having a melting point of from 82° to 86° C.

reactant | 2-oxazolone | 3 g | O1C(NC=C1)=O | C3H3NO2
reactant | ethyl mercaptan | 25 ml | C(C)S | C2H6S
reactant | azobisisobutyronitrile | 600 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 5-ethylthiooxazolidin-2-one | 1.6 g | C(C)SC1CNC(O1)=O | C5H9NO2S
